US05073559
reaction of 5-fluoro-2-propoxybenzamide (16.40 g) with triethyloxonium tetrafluoroborate yielded ethyl 5-fluoro-2-propoxybenzimidate tetrafluoroborate which on reaction with a saturated solution of ethanolic ammonia yielded 5-fluoro-2-propoxybenzamidine (8.40 g);

reactant | 5-fluoro-2-propoxybenzamide | 16.40 g | FC=1C=CC(=C(C(=O)N)C1)OCCC | C10H12FNO2
reactant | triethyloxonium tetrafluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
product | ethyl 5-fluoro-2-propoxybenzimidate tetrafluoroborate | F[B-](F)(F)F.FC=1C=CC(=C(C(OCC)=N)C1)OCCC | InChI=1S/C12H16FNO2.BF4/c1-3-7-16-11-6-5-9(13)8-10(11)12(14)15-4-2;2-1(3,4)5/h5-6,8,14H,3-4,7H2,1-2H3;/q;-1
